US08426414B2
Part C. [(1S,2S)-1-({[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-[trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester
A mixture of trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid HCl salt (217 mg, 1 mmol) in thionyl chloride (2 mL) was heated at reflux for over night. The mixture was concentrated and dried under high vacuum for 3 h. Then the residue was dissolved in DCM (4 mL) and added dropwise to a solution of ((1S,2S)-1-{[4-(t-butyl-dimethyl-silanyloxy)-phenylamino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester (422 mg, 1 mmol) and triethyl amine (409 uL, 3 mmol) in DCM (4 mL). The resulting mixture was stirred at rt for overnight. The reaction mixture was concentrated and the residue was subjected to ISCO (40 g column, 0-40% EtOAc in hexane over 40 min.) to give the titled compound (486 mg, 83%). MS (MH+ 586).

reactant | trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid HCl salt | 1 mmol, 217 mg | Cl.FC=1C=CC(=NC1)[C@H]1[C@@H](C1)C(=O)O
reactant | ((1S,2S)-1-{[4-(t-butyl-dimethyl-silanyloxy)-phenylamino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester | 1 mmol, 422 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CNC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C23H42N2O3Si
reactant | triethyl amine | 3 mmol, 409 uL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | [(1S,2S)-1-({[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-[trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester | 486 mg, 83% | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C(=O)[C@H]1[C@@H](C1)C1=NC=C(C=C1)F)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C32H48FN3O4Si
